US08580841B2
Step A: Preparation of Ethyl 2-(7-(2,4-Bis(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate.
To a mixture of ethyl 2-(7-hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate (0.130 g, 0.5 mmol) and K2CO3 (0.069 g, 0.500 mmol) in DMF (1 mL) was added 1-(bromomethyl)-2,4-bis(trifluoromethyl)benzene (0.154 g, 0.500 mmol). The mixture was heated at 70° C. overnight, taken up in EtOAc, washed with water (thrice) and brine. The organics were dried over MgSO4 and concentrated. The residue was purified by silica gel column chromatography to give the title compound an orange solid (0.195 g). LCMS m/z=486.3 [M+H]+.

reactant | ethyl 2-(7-hydroxy-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | 0.5 mmol, 0.130 g | OC1=CC=2C3=C(NC2C=C1)C(CC3)CC(=O)OCC | C15H17NO3
reactant | K2CO3 | 0.500 mmol, 0.069 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(bromomethyl)-2,4-bis(trifluoromethyl)benzene | 0.500 mmol, 0.154 g | BrCC1=C(C=C(C=C1)C(F)(F)F)C(F)(F)F | C9H5BrF6
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl 2-(7-(2,4-Bis(trifluoromethyl)benzyloxy)-1,2,3,4-tetrahydrocyclopenta[b]indol-3-yl)acetate | FC(C1=C(COC2=CC=3C4=C(NC3C=C2)C(CC4)CC(=O)OCC)C=CC(=C1)C(F)(F)F)(F)F | C24H21F6NO3
